US06117869
When in the procedure of Example 1, Step (b), thianthrene-2-sulfonyl chloride is replaced by phenoxathiine-2-sulfonyl chloride and (L)-valine-t-butyl ester is replaced with (L)-alanine-t-butyl ester, (S)-2-(phenoxathiine-2-sulfonylamino)-propionic acid is obtained as a white solid; mp 75-85° C.

reactant | thianthrene-2-sulfonyl chloride | C1=C(C=CC=2SC3=CC=CC=C3SC12)S(=O)(=O)Cl | C12H7ClO2S3
reactant | phenoxathiine-2-sulfonyl chloride | C1=C(C=CC=2OC3=CC=CC=C3SC12)S(=O)(=O)Cl | C12H7ClO3S2
reactant | (L)-valine-t-butyl ester | C(C)(C)(C)OC([C@@H](N)C(C)C)=O | C9H19NO2
reactant | (L)-alanine-t-butyl ester | C(C)(C)(C)OC([C@@H](N)C)=O | C7H15NO2
product | (S)-2-(phenoxathiine-2-sulfonylamino)-propionic acid | C1=C(C=CC=2OC3=CC=CC=C3SC12)S(=O)(=O)N[C@H](C(=O)O)C | C15H13NO5S2
